Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / Keflex / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
fall with headstrike
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o female with history of Pancrease and renal transplant, 
CAD
and type 1 DM who is blind presents to the ED via EMS after a
fall.  Patient states that she does not recall the fall. She
recalls waking up this morning and making coffee and then was
found down by her neighbor who called ___.

On exam she denies headache, dizziness nausea and vomiting.

 
Past Medical History:
renal transplant ___  
pancreatic transplant in ___  
DM 1  
blindness  
CABG in ___  
h/o rheumatic fever  
hyperlipidemia  
osetoporosis  
plantar fascitis
BCC
SCC
Right Acetabular fx
 
Social History:
___
Family History:
NC
 
Physical Exam:
Medications prior to admission:
On Admission:
O: T:97.8 BP: 147/97         HR:92    R18       O2Sats100 %

Gen: Agitated, but comfortable
HEENT: right forehead abrasion and bruise
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils left cloudy, right 5 to 4 and irregular 
mm bilaterally.

V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Toes downgoing bilaterally

On Discharge:
Stable
 
Pertinent Results:
___ CT head noncontrast: There is a 2.7 x 1.3 cm right frontal 
intraparenchymal hemorrhage with surrounding edema.  There are 
small bilateral bifrontal subdural hemorrhages measuring 
approximately 4 mm in maximal thickness on the right and 3 mm on 
the left.  
There is no significant mass effect, including no shift of the 
midline 
structures.  The basilar cisterns are patent.  The ventricles 
and sulci remain prominent consistent with atrophy.  There is 
periventricular white matter hypodensity consistent with chronic 
small vessel ischemic disease.  There is mild mucosal thickening 
of the maxillary sinuses bilaterally.   There are no acute 
fractures.  Calcifications are noted within the globes 
bilaterally.  There are dense vascular calcifications.  

___ Pelvis and additional views of right hip Xray: IMPRESSION:  
No acute fracture or evidence of hardware complication.

___ CXR: no acute process, Single supine view of the chest.  The 
lungs are clear without focal consolidation.  Left costophrenic 
angle is excluded from the field of view.  There is no obvious 
effusion.  Cardiomediastinal silhouette is within normal limits. 
 Median sternotomy wires and mediastinal clips are again noted.  
No acute osseous abnormality is identified. 

___ ECHO: Compared with the prior study (images reviewed) of 
___, regional (inferior) LV systolic function has 
improved. The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with basal inerior 
hypokinesis. No masses or thrombi are seen in the left 
ventricle. There is no left ventricular outflow obstruction at 
rest or with Valsalva. There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Trace aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. Mild 
(1+) mitral regurgitation is seen. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

___ Carotid Duplex: IMPRESSION: 40-59% stenosis in the right 
internal carotid artery and less than 40% stenosis in the left 
internal carotid artery. 

___ CT head: Stable right frontal intraparenchymal hemorrhage 
with progression of left frontal intraparenchymal hemorrhage 
with more surrounding edema and sulcal effacement.  No evidence 
of midline shift. Stable bifrontal subdural hematomas. 

___ CT head: No change in size of bilateral frontal hemorrhagic 
contusions 
with surrounding edema. Stable bifrontal SDH.

 
Brief Hospital Course:
Mrs. ___ was admitted to the Neurosurgery service for 
frequent neuro checks and blood pressure control in the setting 
of bifrontal contusions and SDHs after a syncopal fall.  She was 
transfused with 1 unit of plts given the extensive contusions on 
Aspirin therapy.  The nephrology service was consulted given her 
hx of renal transplant and they contributed to her management 
directing immunosuppressive agents.  She was started on Dilantin 
for seizure prophylaxis but switched to  Keppra 500mg BID at the 
direction of nephrology as dilantin can alter Tacrolimus 
metabolism by the liver.  Neurologically she remained stable 
however on ___ repeat head CT showed mild blossoming of the 
frontal contusions.  Cardiac ECHO and carotid dopplers were 
perform in addition to EKG for her syncopal work up without any 
evidence of cardiogenic or vascular cause of syncope.  

She remained stable on ___.  Tacrolimus dosing was changed under 
direction of Nephrology based on a tacrolimus level of 3.8.

On ___ repeat head CT was stable.  She was seen and evaluated by 
___ who felt that she was safe to return home.  SW was 
consulted given the patient's new diagnosis of TBI and ___ was 
arranged for a home safety evaluation in the setting of her new 
TBI and pre-existing blindness.  

At the time of discharge she was tolerating a regular diet, 
ambulating with the aid of her seeing eye dog, afebrile with 
stable vitals.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine 5% Patch 1 PTCH TD DAILY; ON FOR 12HRS, OFF FOR 
12HRS 
2. Lisinopril 2.5 mg PO DAILY 
3. Mycophenolate Mofetil 500 mg PO BID 
4. Rosuvastatin Calcium 10 mg PO DAILY 
5. Tacrolimus 3 mg PO Q12H 
6. TraMADOL (Ultram) 50 mg PO DAILY:PRN pain 
7. Acetaminophen 500 mg PO Q8H:PRN pain 
8. Ascorbic Acid ___ mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
daily 
11. Docusate Sodium 100 mg PO DAILY:PRN constipation 
12. Multivitamins 1 TAB PO DAILY 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q8H:PRN pain 
2. Ascorbic Acid ___ mg PO DAILY 
3. Docusate Sodium 100 mg PO DAILY:PRN constipation 
4. Lisinopril 2.5 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Mycophenolate Mofetil 500 mg PO BID 
7. Rosuvastatin Calcium 10 mg PO DAILY 
8. Senna 8.6 mg PO BID:PRN constipation 
9. TraMADOL (Ultram) 50 mg PO DAILY:PRN pain 
10. Zinc Sulfate 220 mg PO DAILY 
11. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every 4 hours Disp 
#*20 Tablet Refills:*0
12. LeVETiracetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth Twice daily Disp 
#*60 Tablet Refills:*1
13. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
daily 
14. Lidocaine 5% Patch 1 PTCH TD DAILY; ON FOR 12HRS, OFF FOR 
12HRS 
15. Tacrolimus 4 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left frontal intraparanchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
General Instructions

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•You were taking Aspirin prior to your injury, you may safely 
resume taking this on ___.
 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___